US05599832
Preparation of 3-Cyano-5-methoxy-2-(trifluoromethyl)indole
A solution of 5-methoxy-2-(trifluoromethyl)indole (3.0 g, 13.0 mmole) in acetonitrile is treated dropwise with chlorosulfonyl isocyanate (2.02 g, 14.3 mmole) at 0° C., stirred at ambient temperatures for 2.5 hours, treated with dimethylformamide (DMF) (2.1 g, 28.6 mmole), stirred at ambient temperatures for 0.75 hour and poured into water. The resultant mixture is extracted with diethyl ether. The combined extracts are washed sequentially with water and brine, dried over MgSO4 and concentrate in vacuo to give a brown oil residue. The oil is crystallized in ether/hexanes to give the title product as brown crystals, 0.78 g (25% yield), mp 189°-190° C., identified by IR, 1HNMR, 13CNMR and 19FNMR.

reactant | 5-methoxy-2-(trifluoromethyl)indole | 13.0 mmole, 3.0 g | COC=1C=C2C=C(NC2=CC1)C(F)(F)F | C10H8F3NO
reactant | chlorosulfonyl isocyanate | 14.3 mmole, 2.02 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | dimethylformamide | 28.6 mmole, 2.1 g | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-Cyano-5-methoxy-2-(trifluoromethyl)indole | 25% yield | C(#N)C1=C(NC2=CC=C(C=C12)OC)C(F)(F)F | C11H7F3N2O
